US09284323B2
A solution of (S)-ethyl 2-tert-butoxy-2-(3,5-dimethyl-1-(methylsulfonyloxy)naphthalen-2-yl)acetate (0.19 g, 0.48 mmol) in THF (3 mL) cooled to 0° C. was treated with tetrabutylammonium fluoride (1M in THF, 1.4 mL, 1.4 mmol). After 1 hour, saturated NaHCO3 was added and the aqueous layer extracted with EtOAc. The combined organics are washed with brine, dried over anhydrous MgSO4, filtered, and concentrated in vacuo. Purification via Yamazen column chromatography afforded (S)-ethyl 2-tert-butoxy-2-(1-hydroxy-3,5-dimethylnaphthalen-2-yl)acetate that is contaminated with a small percentage of an inseparable, uncharacterized side product. 1H-NMR: 400 MHz, (CDCl3) δ: 8.96 (s, 1H); 8.13 (obs m, 1H); 7.30 (obs m, 2H); 5.51 (s, 1H); 4.23-4.05 (m, 2H); 2.62 (br s, 6H); 1.31 (s, 9H); 1.19 (t, J=7.2 Hz, 3H).

reactant | (S)-ethyl 2-tert-butoxy-2-(3,5-dimethyl-1-(methylsulfonyloxy)naphthalen-2-yl)acetate | 0.48 mmol, 0.19 g | C(C)(C)(C)O[C@H](C(=O)OCC)C1=C(C2=CC=CC(=C2C=C1C)C)OS(=O)(=O)C | C21H28O6S
reactant | tetrabutylammonium fluoride | 1.4 mmol, 1M, 1.4 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | (S)-ethyl 2-tert-butoxy-2-(1-hydroxy-3,5-dimethylnaphthalen-2-yl)acetate | C(C)(C)(C)O[C@H](C(=O)OCC)C1=C(C2=CC=CC(=C2C=C1C)C)O | C20H26O4
